US09278910B2
To a stirring solution of 4-(2-(4-methoxyphenyl)acetamido)benzoic acid (142 mg, 0.498 mmol), tert-butyl 2-(((2-(4-(heptyloxy)benzyl)-1H-benzo[d]imidazol-5-yl)methyl)amino)acetate INT-48 (221, 0.475 mmol) and TEA (206 μL, 1.42 mmol) in DMF (2 mL) was added HATU (189 mg, 0.489 mmol). After stirring at room temperature for 1 h, the reaction mixture was diluted with DCM (5 mL) and NaHCO3 (15 mL). The layers were split through a hydrophobic frit and the organics evaporated. The crude product was purified by column chromatography (EA/isohexanes) to give 313 mg (88%) of tert-butyl 2-(N-((2-(4-(heptyloxy)benzyl)-1H-benzo[d]imidazol-5-yl)methyl)-4-(2-(4-methoxyphenyl)acetamido)benzamido)acetate INT-49. LCMS-ESI (m/z) calculated for C44H52N4O6: 732; found 733[M+H]+, tR=2.09 min (Method 5).

reactant | 4-(2-(4-methoxyphenyl)acetamido)benzoic acid | 0.498 mmol, 142 mg | COC1=CC=C(C=C1)CC(=O)NC1=CC=C(C(=O)O)C=C1 | C16H15NO4
reactant | tert-butyl 2-(((2-(4-(heptyloxy)benzyl)-1H-benzo[d]imidazol-5-yl)methyl)amino)acetate | C(CCCCCC)OC1=CC=C(CC2=NC3=C(N2)C=CC(=C3)CNCC(=O)OC(C)(C)C)C=C1 | C28H39N3O3
reactant | HATU | 0.489 mmol, 189 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | 15 mL | C(=O)(O)[O-].[Na+]
product | tert-butyl 2-(N-((2-(4-(heptyloxy)benzyl)-1H-benzo[d]imidazol-5-yl)methyl)-4-(2-(4-methoxyphenyl)acetamido)benzamido)acetate | 313 mg, 88% | C(CCCCCC)OC1=CC=C(CC2=NC3=C(N2)C=CC(=C3)CN(C(C3=CC=C(C=C3)NC(CC3=CC=C(C=C3)OC)=O)=O)CC(=O)OC(C)(C)C)C=C1 | C44H52N4O6
